US07968570B2
A mixture of 2-bromomethyl-6-chloro-benzoic acid methyl ester (0.132 g, 0.5 mmol), benzylamine (0.065 g, 0.6 mmol), and K2CO3 (0.207 g, 1.5 mmol) in toluene (4 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-benzyl-7-chloro-2,3-dihydro-isoindol-1-one (0.126 g, 99%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.22 (s, 2H), 4.76 (s, 2H) 7.28-7.46 (m, 8H). GC-MS: m/z 257 (M)+.

reactant | 2-bromomethyl-6-chloro-benzoic acid methyl ester | 0.5 mmol, 0.132 g | COC(C1=C(C=CC=C1Cl)CBr)=O | C9H8BrClO2
reactant | benzylamine | 0.6 mmol, 0.065 g | C(C1=CC=CC=C1)N | C7H9N
reactant | K2CO3 | 1.5 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-benzyl-7-chloro-2,3-dihydro-isoindol-1-one | 0.126 g, 99% | C(C1=CC=CC=C1)N1C(C2=C(C=CC=C2C1)Cl)=O | C15H12ClNO
